US05114461
Dry triethylamine (1.33 g) was added at 0°-5° C. to a stirred suspension of piperidine-2,4-dione (1.13 g), anhydrous zinc chloride (1.64 g) and benzoyl cyanide (1.31 g) in dry dichloromethane (50 ml) and the mixture stirred at ambient temperature for 18 hours. The mixture was washed successively with 2N hydrochloric acid (2×30 ml) and water (3×30 ml) dried over magnesium sulphate and evaporated under reduced pressure to give a pale yellow solid which was recrystallised from acetonitrile (0.5 ml) to give 3-benzoylpiperidine-2,4-dione (0.5 g), mp 164°-165° C., as a cream crystalline solid.

reactant | triethylamine | 1.33 g | C(C)N(CC)CC | C6H15N
reactant | piperidine-2,4-dione | 1.13 g | N1C(CC(CC1)=O)=O | C5H7NO2
reactant | benzoyl cyanide | 1.31 g | C(C1=CC=CC=C1)(=O)C#N | C8H5NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | zinc chloride | 1.64 g | [Cl-].[Zn+2].[Cl-]
product | 3-benzoylpiperidine-2,4-dione | 0.5 g | C(C1=CC=CC=C1)(=O)C1C(NCCC1=O)=O | C12H11NO3
